US20010007903A1
After triethylamine (194 ml) was added to a solution of 4-hydroxymethyl-1-(trityl)pyrazole (400 g) in dichloromethane (5.2 L) under ice-cooling, methanesulfonylchloride was added potionwise to the mixture. After stirring for 40 minutes at room temperature, to the reaction mixture was added water(2 L). The organic layer was separated, added water(2 L), and adjusted to pH 3-4 with 6 N hydrochloric acid. The organic layer was separated, was washed 5% sodium chloride aqueous solution (2 L), dried over magnesium sulfate and the solvent was distilled away. The resulting residue was dissolved in dichloromethane (500 ml) and treated on silica gel (eluent: n-hexane/ethyl acetate=9/1-7/3) to afford 4-chloromethyl-1-tritylpyrazole(245.1 g).

reactant | triethylamine | 194 ml | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxymethyl-1-(trityl)pyrazole | 400 g | OCC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
reactant | methanesulfonylchloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 2 L | O | H2O
solvent | dichloromethane | 5.2 L | ClCCl | CH2Cl2
product | 4-chloromethyl-1-tritylpyrazole | 245.1 g | ClCC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
